US07691882B2
3-(1-Trityl-1H-pyrazol-4-yl)-pyridin-2-ylamine
4-(4,4,5,5-Tetramethyl-(1,3,2)dioxaborolan-2-yl)-1-trityl-1H-pyrazole (3.2 g, 7.33 mmol) described in Manufacturing Example 32-1-2, 3-bromo-pyridine-2-ylamine (1.14 g, 6.60 mmol), tetrakis(triphenylphosphine)palladium (0) (424 mg, 0.37 mmol), toluene (40 mL), 2 M aqueous sodium carbonate solution (10 mL) and ethanol (20 mL) were stirred for 1 hour at 95° C. The reaction solution was allowed to room temperature, and partitioned into water and ethyl acetate. The ethyl acetate layer was washed with water once, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel chromatography (heptane:ethyl acetate=1:2) to obtain the title compound (2.3 g, 78.0%).

reactant | 4-(4,4,5,5-Tetramethyl-(1,3,2)dioxaborolan-2-yl)-1-trityl-1H-pyrazole | 7.33 mmol, 3.2 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H29BN2O2
reactant | 3-bromo-pyridine-2-ylamine | 6.60 mmol, 1.14 g | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.37 mmol, 424 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(1-Trityl-1H-pyrazol-4-yl)-pyridin-2-ylamine | 2.3 g, 78.0% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)C=1C(=NC=CC1)N | C27H22N4
